US07855285B2
The sodium salt of 2-chloro-6-(4,5-diphenylimidazol-1-yl)purine (94 mg, 0.25 mmol) in dried CH3CN (10 mL) was treated with 2-deoxy-3,5-di-O-(p-toluoyl)-α-D-erythro-pentofuranosyl chloride (0.334 g, 0.86 mmol) in CH2Cl2 (10 mL) by general method 2. Sampling of the reaction mixture showed no α-nucleoside by 1H NMR (500 MHz). Volatiles were evaporated in vacuo, and the residue was chromatographed (25 g silica gel, EtOAc/hexanes, 3:7→1:1) to give the β-anomer (quantitative). Recrystallization (EtOAc/hexanes) gave 2-chloro-9-[2-deoxy-3,5-di-O-(p-toluoyl)-β-D-erythro-pentofuranosyl]-6-(4,5-diphenylimidazol-1-yl)purine: UV (MeOH) max 240, 275 nm (∈ 53 400, 19 300), min 223, 270 nm (∈ 42 000, 19 100); 1H NMR (500 MHz, CDCl3) δ 8.97 (s, 1H), 8.25 (s, 1H), 7.97 (d, J=7.9 Hz, 2H), 7.86 (d, J=7.9 Hz, 2H), 7.55 (d, J=8.2 Hz, 2H), 7.19-7.40 (m, 13H), 6.56 (t, J=7.0 Hz, 1H), 5.77-5.78 (m, 1H), 4.76-4.79 (m, 1H), 4.65-4.69 (m, 2H), 2.92-2.96 (m, 2H), 2.45 (s, 3H), 2.40 (s, 3H); 13C NMR (125 MHz, CDCl3) δ 166.06, 165.94, 154.03, 153.17, 147.13, 144.71, 144.45, 142.81, 140.38, 139.24, 133.50, 131.02, 129.85, 129.55, 129.37, 129.34, 128.25, 128.17, 127.47, 127.17, 126.41, 126.18, 124.00, 85.11, 83.52, 74.85, 63.84, 38.57, 21.78, 21.71; HRMS m/z 747.2100 (MNa+[C41H33ClN6O5Na]=747.2099).

reactant | sodium | [Na] | Na
reactant | 2-chloro-6-(4,5-diphenylimidazol-1-yl)purine | 0.25 mmol, 94 mg | ClC1=NC(=C2NC=NC2=N1)N1C=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1 | C20H13ClN6
reactant | 2-deoxy-3,5-di-O-(p-toluoyl)-α-D-erythro-pentofuranosyl chloride | 0.86 mmol, 0.334 g | C1(=CC=C(C=C1)C(=O)O[C@H]1C[C@H](O[C@@H]1COC(=O)C1=CC=C(C=C1)C)Cl)C | C21H21ClO5
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-9-[2-deoxy-3,5-di-O-(p-toluoyl)-β-D-erythro-pentofuranosyl]-6-(4,5-diphenylimidazol-1-yl)purine | ClC1=NC(=C2N=CN(C2=N1)[C@H]1C[C@H](OC(=O)C2=CC=C(C=C2)C)[C@H](O1)COC(=O)C1=CC=C(C=C1)C)N1C=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1 | C41H33ClN6O5
